US07291619B2
1-Boc-4-(3-Chloro-2-cyano-phenyl)-piperazine
To a solution of N-Boc-piperazine (2.02 g, 11.0 mmol) in DMSO (20 mL) was added 2-fluoro-6-chlorobenzonitrile (1.55 g, 10 mmol) and potassium carbonate (1.52 g, 11 mmol). The mixture was stirred at 80° C. for about 48 hours. The mixture was cooled to r.t. and diluted with diethyl ether (200 mL). The solution was washed with 1N HCl (2×20 mL), H2O (3×20 mL) and brine (20 mL) and then dried over sodium sulfate and concentrated to a yellow oil. Purification by flash chromatography (4:1 hexanes/ethyl acetate) gave the title compound (2.5 g, 86%) as a colorless oil.

reactant | N-Boc-piperazine | 11.0 mmol, 2.02 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2-fluoro-6-chlorobenzonitrile | 10 mmol, 1.55 g | FC1=C(C#N)C(=CC=C1)Cl | C7H3ClFN
reactant | potassium carbonate | 11 mmol, 1.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 1-Boc-4-(3-Chloro-2-cyano-phenyl)-piperazine | 2.5 g, 86% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C(=CC=C1)Cl)C#N | C16H20ClN3O2
